### PR TITLE
Split `order.v`

### LINKED ISSUE #1508: Split order.v
Since `order.v` is 8k lines long (currently the largest file in MathComp), I propose splitting `order.v`, perhaps into the following files:
- `porder.v`: partial orders,
- `lattices.v`: semilattices, lattices, distributive lattices,
- `total.v`: total orders,
- `complemented.v`: complemented lattices, and
- `order.v` re-exports everything to provide the compatibility layer for the old `order.v`.

`order.v` should eventually be replaced by `all.v`, deprecated, and then removed. After that, we can consider renaming `total.v` to `order.v`.

In addition, we can probably get rid of the `Order.LTheory`, `Order.CTheory`, and `Order.TTheory` modules. All this stuff should be called `Order.Theory`, and we need to import only the files we need *in the dependency order* before importing `Order.Theory` (as in #1504). (The only problem is that we cannot deprecate modules...)

Furthermore, it will probably enable us to compile `num_theory` without waiting for `complemented.v` to compile.

### PR DESCRIPTION
**Pull request by pi8027**
##### Motivation for this change

Since `order.v` is 8k lines long and the largest file in MathComp, this PR splits it into smaller pieces. This is the result:
```sh
$ wc order/*.v
     1      3     22 order/all_order.v
  1659  10520  65624 order/complemented_lattice_instances.v
   637   3769  23625 order/complemented_lattice.v
   820   6133  34117 order/lattice_instances.v
  2148  14386  85315 order/lattice.v
   125    643   4642 order/order_instances.v
   177   1529  12929 order/order.v
   842   5291  29276 order/porder.v
  1911  13834  75124 order/preorder.v
  2047  13860  80854 order/total_order_instances.v
  1228   8636  45177 order/total_order.v
 11595  78604 456705 total
```

This PR also reduces the compilation time of MC in several scenarios: https://github.com/math-comp/math-comp/pull/1580#issuecomment-4378742694

Closes #1508

##### Minimal TODO list

- [x] added changelog entries with `doc/changelog/make-entry.sh`

- [x] added corresponding documentation in the headers
- [x] tried to abide by the [contribution guide](https://github.com/math-comp/math-comp/blob/master/CONTRIBUTING.md)
- [x] this PR contains an optimum number of meaningful commits

See [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs) for details.

##### TODO list

They are more or less sorted by importance/urgency. Less important ones can be done in separate PRs. See https://github.com/math-comp/math-comp/pull/1580#issuecomment-4330972051 for details.

- [x] resolve the name conflict of `ltEprod` and `lt_pair` in `complemented_lattice_instances.v`
- [x] PR overlays
- [x] Propagate the changes to the rest of MathComp
- [x] compare the compilation time before/after this PR (`make -j 1`, `make -j 8`, per-package build, etc.)
- [x] move the lexicographic order instances on tuples from `order_instances.v` to `total_order_instances.v` (this requires a non-trivial adaptation of some proofs)
- [x] decide what we do with the order instances on `sub_type`
- [x] move `interval.v` and `orderedzmod.v` to `order/`
- [ ] extend `lattice.v` with the join of semilattice structures and `subType`
- [ ] split `lattice.v` into two: `semilattice.v` and `lattice.v`
- [ ] extend `lattice.v` with modular lattices (see #613 and #653)

##### Overlays

- https://github.com/imdea-software/fcsl-pcm/pull/60
- https://github.com/SSProve/ssprove/pull/118

##### Dependencies

- https://github.com/math-comp/math-comp/pull/1590
- https://github.com/math-comp/math-comp/pull/1584

##### Automatic note to reviewers

Read [this Checklist](https://github.com/math-comp/math-comp/wiki/Checklist-for-creating-and-review-PRs).

### CODE REVIEW

**Comment by pi8027** [comment]
Here is the current status:
```sh
$ wc order/*.v
     1      3     22 order/all_order.v
   657   3856  24493 order/complemented_lattice.v
  2214  14694  87732 order/lattice.v
  4512  30462 178446 order/order_instances.v
   152   1107   9196 order/order.v
   910   5721  31737 order/porder.v
  1935  13904  75921 order/preorder.v
  1300   9007  47265 order/total_order.v
 11681  78754 454812 total
```

Neither `total_order.v` nor `complemented_lattice.v` depends on the other, and they can be compiled in parallel.

`order_instances.v` contains all the order structure instances from the old `order.v`. It is still pretty big, and depends on both `total_order.v` and `complemented_lattice.v`. I would like to split it into two parts, each depending on `total_order.v` and `complemented_lattice.v`. Unfortunately, there are a few results that seem to require both of them:
- the order structure instances on `bool` (which is both totally ordered and a complemented lattice), and
- `sub_prod_lexi`, `sub_seqprod_lexi`, and `sub_tprod_lexi`, which say a pointwise order is a subrelation of a lexicographic order.

Any opinion?

**Comment by proux01** [comment]
Maybe the instances can go in three files? (the last one requiring the tow other independent ones)

**Comment by pi8027** [comment]
In the end, I split `order_instances.v` into 4 files:
- `lattice_instances.v`: instances that require `lattice.v`, e.g., pointwise order on `seq`,
- `total_order_instances.v`: instances that require `total_order.v`, e.g., lexicographic orders,
- `complemented_lattice_instances.v`: instances that require `complemented_lattice.v`, e.g., pointwise orders,
- `order_instances.v`: instances that require both `total_order.v` and `complemented_lattice.v`, e.g., `bool`.

The lexicographic order instances on tuples depend on `sub_seqprod_lexi`, and thus stay in `order_instances.v` for the moment. Moving them to `total_order_instances.v` is just a matter of proving the following two lemmas, but I couldn't find an easy way to do it:
```rocq
Fact le0x t : [tuple \bot | _ < n] <= t :> n.-tuple T.
Fact lex1 t : t <= [tuple \top | _ < n].
```

**Comment by pi8027** [comment]
And now, the largest file is `lattice.v`, which is 2.2k lines long:
```rocq
$ wc order/*.v
     1      3     22 order/all_order.v
  1654  10501  65378 order/complemented_lattice_instances.v
   657   3856  24493 order/complemented_lattice.v
   823   6124  33995 order/lattice_instances.v
  2214  14694  87732 order/lattice.v
   398   2334  16437 order/order_instances.v
   154   1118   9327 order/order.v
   910   5721  31737 order/porder.v
  1935  13904  75921 order/preorder.v
  1780  12205  69617 order/total_order_instances.v
  1300   9007  47265 order/total_order.v
 11826  79467 461924 total
```

**Comment by pi8027** [comment]
I added a long TODO list to the PR description above. It would be great if I could discharge some of them, since I won't be able to address all of them. Here I elaborate on them:

## TODOs for this PR

### [DONE] Name conflicts of `ltEprod` and `lt_pair`

In the current `master` branch, they are spread across `preorder.v` and `order.v`. So, we didn't notice the name conflicts.

https://github.com/math-comp/math-comp/blob/77e80d5b4e7c33a76534d63c0cb5d7a827f2982b/order/preorder.v#L2723-L2724 https://github.com/math-comp/math-comp/blob/33421d32e7204b5fdf030935949ba4cf91b10627/order/order.v#L6244 https://github.com/math-comp/math-comp/blob/77e80d5b4e7c33a76534d63c0cb5d7a827f2982b/order/preorder.v#L2734-L2736 https://github.com/math-comp/math-comp/blob/33421d32e7204b5fdf030935949ba4cf91b10627/order/order.v#L6247-L6248

### [DONE] PR overlays

### [DONE] Propagate the changes to the rest of MathComp

As of now, we often need only `total_order(_instances)` in MathComp. Requiring only a part of the order package may reduce the time spent on `Require Import`. We should also stop using `Order.LTheory`, `Order.TTheory`, and `Order.CTheory`.

### [DONE] Compare the compilation time before/after this PR

Reducing compilation time is part of the motivation of this PR. So, we need to confirm that it actually reduces the compilation time. We need to do it in several scenarios: `make -j 1`, `make -j 8`, package-wise build, etc.

## TODOs for MathComp 2.7

I would like to address the following items in the same milestone as this PR, so that users don't need to adapt their proof script to this series of changes several times.

### [DONE] Move the lexicographic order instances on tuples from `order_instances.v` to `total_order_instances.v`

See https://github.com/math-comp/math-comp/pull/1580#issuecomment-4306765674.

### [DONE] Decide what we do with the order instances on `sub_type`

See #1583. #1584 removed the `[POrder of T by <:]` and `[Order of T by <:]` notations. This PR removes the `DeprecatedSubOrder` module, but keeps the two order instances on `sub_type`. We need to decide wether we try to eventuall remove the instances on `sub_type` or not.

### Move `interval.v` and `orderedzmod.v` to `order/`

We should also re-export them from `order.v`. The latter relocation is currently blocked. See #1560.

### Completing the subtype hierarchy with semilattices and split `lattices.v`

This is actually two items, but closely related. Adding more subtype structures would increase the size of `lattices.v`. We will see whether it is reasonable to further split `lattices.v` only after that.

## TODOs with no milestone

### Extend `lattice.v` with modular lattices

See #613 and #653.

**Comment by pi8027** [comment]
I wrote benchmark scripts for a few different ways to compile MC (per-file, per-package, and the entire MC): https://github.com/math-comp/math-comp/commit/a4fdfa1794888bcfaf3a2f53811753d3dd615285. It looks like this PR saves about 10 sec in `make -j 8` and about 30 sec in `make -j 1` on my laptop. I will run them on a more reliable computer tomorrow and report the results here.

File: algebra/interval.v
Comment (pi8027) [inline algebra/interval.v:339]: Removing this lemma (or alternatively, replacing `<=` on `bool` with `==>`) would allow us to eliminate the dependency on `order_instances.v` and save a few seconds in `make -j 8`. @hoheinzollern @affeldt-aist

File: order/lattice.v [hunk 1]
```diff
@@ -0,0 +1,2148 @@
...
+
+Variable (d : disp_t) (T : latticeType d).
+Variable S : {pred T}.
+
+Definition meet_closed := {in S &, forall u v, u `&` v \in S}.
+
+Definition join_closed := {in S &, forall u v, u `|` v \in S}.
+
+End ClosedPredicates.
+End ClosedPredicates.
```
Comment (pi8027) [inline order/lattice.v:709]: I have the impression that this module should be exported by default (by `HB.export`). @proux01

File: order/lattice.v [hunk 2]
```diff
@@ -0,0 +1,2148 @@
...
+Export TJoinTheory.
+Export LatticeTheory.
+Export DistrLatticeTheory.
+Export BDistrLatticeTheory.
+Export TDistrLatticeTheory.
+Export LatticeMorphismTheory.
+Export BLatticeMorphismTheory.
+Export TLatticeMorphismTheory.
+Export LatticePred.
+Export ClosedPredicates. (* FIXME: HB.export *)
```
Comment (pi8027) [inline order/lattice.v:2140]: If so, we should remove this line.

File: order/porder.v [hunk 3]
```diff
@@ -0,0 +1,842 @@
...
+(********)
+
+(*
+FIXME: we have two issues in the dual instance declarations in the DualOrder
+module below:
+1. HB.saturate is slow, and
+2. if we declare them by HB.instance, some declarations fail because it unfolds
+   [dual] and the generated instance does not typecheck
+   (math-comp/hierarchy-builder#257).
+*)
```
Comment (pi8027) [inline order/porder.v:122]: This comment looks outdated. We should try to use `HB.saturate` more extensively and see whether we save any compilation time (but in another PR).

File: order/porder.v [hunk 4]
```diff
@@ -0,0 +1,842 @@
...
+Lemma le1x x : (\top <= x) = (x == \top). Proof. exact: (@lex0 _ T^d). Qed.
+Lemma ltx1 x : (x < \top) = (x != \top). Proof. exact: (@lt0x _ T^d). Qed.
+
+End TPOrderTheory.
+End TPOrderTheory.
+
+Lemma mono_unique d (T T' : finPOrderType d) (f g : T -> T') :
+    total (<=%O : rel T) -> (#|T'| <= #|T|)%N ->
+    {mono f : x y / x <= y} -> {mono g : x y / x <= y} ->
+  f =1 g.
```
Comment (pi8027) [inline order/porder.v:618]: From the users' perspective, this lemma is called `Order.mono_unique`, and importing `Order.Theory` does not shorten it to `mono_unique`. Is this intentional? @CohenCyril

File: order/preorder.v [hunk 5]
```diff
@@ -1931,12 +1642,120 @@ End TPreorderTheory.
...
+
+Lemma enum_set1 (a : T) : enum [set a] = [:: a].
+Proof. by rewrite enum_set1. Qed.
+
+End Enum.
+
+Lemma mono_sorted_enum d d' (T : finPreorderType d)
+    (T' : preorderType d') (f : T -> T') :
+    total (<=%O : rel T) -> {mono f : x y / (x <= y)%O} ->
+  sorted <=%O [seq f x | x <- enum T].
```
Comment (pi8027) [inline order/preorder.v:1745]: Same here.

File: order/total_order_instances.v [hunk 6]
```diff
@@ -0,0 +1,2047 @@
...
+  FinTotal.copy (n.-tuple T) (n.-tuplelexi T).
+HB.instance Definition _ n (T : finTBOrderType disp) :=
+  FinTBTotal.copy (n.-tuple T) (n.-tuplelexi T).
+
+End DefaultTupleLexiOrder.
+End DefaultTupleLexiOrder.
+
+(* Some lemmas about [Order.enum 'I_n] *)
+(* TOTHINK: move to OrdinalOrder? *)
+Section Ordinal.
```
Comment (pi8027) [inline order/total_order_instances.v:1747]: This `Ordinal` section, and the `EnumVal` and `tagnat` modules below, are located in weird places. This PR is probably a good occasion to think about it. @CohenCyril

File: order/complemented_lattice_instances.v [hunk 7]
```diff
@@ -0,0 +1,1659 @@
...
+Notation "T *p T'" := (type_ T T')
+  (at level 70, format "T  *p  T'") : type_scope.
+Definition leEprod := @leEprod.
+Definition ltEprod := @ltEprod.
+Definition le_pair := @le_pair.
+Definition lt_pair := @lt_pair.
+Definition botEprod := @botEprod.
+Definition topEprod := @topEprod.
+Definition ltEprod' := @ltEprod'. (* FIXME *)
+Definition lt_pair' := @lt_pair'. (* FIXME *)
```
Comment (pi8027) [inline order/complemented_lattice_instances.v]: We have a name collision between two `leEprod`s (and also two `lt_pair`s). We were not aware of the issue since one comes from `preorder.v` and the other comes from `order.v`. This is probably the last blocking issue to be addressed before merging this PR.

**Review by pi8027 — COMMENTED** [review]
A few remarks on the issues I discovered while working on this PR.

File: order/lattice.v (hunk 1 above)
Comment (proux01) [reply order/lattice.v:709]: Maybe, I'd tend to trust you here

**Comment by pi8027** [comment]
Here is a comparison of the compilation time before/after this PR (6f484353ad605995eb7e6819f359aaf40bf69b87..f146b4000c0153bb37c61f8e64e5675c0d56eecb ).

### The output of `opam list`

```
# Packages matching: installed
# Name                  # Installed    # Synopsis
atd                     4.2.0          Parser for the ATD data format description language
atdgen                  4.2.0          Generates efficient JSON serializers, deserializers and validators
atdgen-runtime          4.2.0          Runtime library for code generated by atdgen
atdts                   4.2.0          TypeScript code generation for ATD APIs
base                    v0.16.5        Full standard library replacement for OCaml
base-bigarray           base
base-threads            base
base-unix               base
biniou                  1.2.2          Binary data format designed for speed, safety, ease of use and backward compatibility as protocols evolve
camlp-streams           5.0.1          The Stream and Genlex libraries for use with Camlp4 and Camlp5
cmdliner                2.1.1          Declarative definition of command line interfaces for OCaml
conf-emacs              1              Virtual package to install the Emacs editor
conf-gmp                5              Virtual package relying on a GMP lib system installation
conf-linux-libc-dev     0              Virtual package relying on the installation of the Linux kernel headers files
conf-pkg-config         4              Check if pkg-config is installed and create an opam switch local pkgconfig folder
cppo                    1.8.0          Code preprocessor like cpp for OCaml
csexp                   1.5.2          Parsing and printing of S-expressions in Canonical form
dot-merlin-reader       4.19-414       Reads config files for merlin
dune                    3.22.2         Fast, portable, and opinionated build system
dune-configurator       3.22.2         Helper library for gathering system configuration
easy-format             1.3.4          High-level and functional interface to the Format module of the OCaml standard library
elpi                    3.6.2          ELPI - Embeddable λProlog Interpreter
jane-street-headers     v0.16.0        Jane Street C header files
jsonrpc                 1.26.0         Jsonrpc protocol implementation
jst-config              v0.16.0        Compile-time configuration for Jane Street libraries
lsp                     1.26.0         LSP protocol implementation in OCaml
menhir                  20260209       An LR(1) parser generator
menhirCST               20260209       Runtime support library for unparsers generated by Menhir
menhirGLR               20260209       Runtime support library for GLR parsers generated by Menhir
menhirLib               20260209       Runtime support library for parsers generated by Menhir
menhirSdk               20260209       Compile-time library for auxiliary tools related to Menhir
merlin                  4.19-414       Editor helper, provides completion, typing and source browsing in Vim and Emacs
merlin-lib              4.19-414       Merlin's libraries
num                     1.6            The legacy Num library for arbitrary-precision integer and rational arithmetic
ocaml                   4.14.2         The OCaml compiler (virtual package)
ocaml-compiler-libs     v0.12.4        OCaml compiler libraries repackaged
ocaml-config            2              OCaml Switch Configuration
ocaml-option-flambda    1              Set OCaml to be compiled with flambda activated
ocaml-variants          4.14.2+options Official release of OCaml 4.14.2
ocamlbuild              0.16.1         OCamlbuild is a build system with builtin rules to easily build most OCaml projects
ocamlfind               1.9.8          A library manager for OCaml
ocp-indent              1.9.0          A simple tool to indent OCaml programs
octavius                1.2.2          Ocamldoc comment syntax parser
parsexp                 v0.16.0        S-expression parsing library
ppx_assert              v0.16.0        Assert-like extension nodes that raise useful errors on failure
ppx_base                v0.16.0        Base set of ppx rewriters
ppx_cold                v0.16.0        Expands [@cold] into [@inline never][@specialise never][@local never]
ppx_compare             v0.16.0        Generation of comparison functions from types
ppx_derivers            1.2.1          Shared [@@deriving] plugin registry
ppx_deriving            6.0.3          Type-driven code generation for OCaml
ppx_enumerate           v0.16.0        Generate a list containing all values of a finite type
ppx_globalize           v0.16.0        A ppx rewriter that generates functions to copy local values to the global heap
ppx_hash                v0.16.0        A ppx rewriter that generates hash functions from type expressions and definitions
ppx_here                v0.16.0        Expands [%here] into its location
ppx_import              1.12.0         A syntax extension for importing declarations from interface files
ppx_inline_test         v0.16.1        Syntax extension for writing in-line tests in ocaml code
ppx_js_style            v0.16.0        Code style checker for Jane Street Packages
ppx_optcomp             v0.16.0        Optional compilation for OCaml
ppx_sexp_conv           v0.16.0        [@@deriving] plugin to generate S-expression conversion functions
ppx_yojson_conv         v0.16.0        [@@deriving] plugin to generate Yojson conversion functions
ppx_yojson_conv_lib     v0.16.0        Runtime lib for ppx_yojson_conv
ppxlib                  0.35.0         Standard infrastructure for ppx rewriters
re                      1.14.0         RE is a regular expression library for OCaml
result                  1.5            Compatibility Result module
rocq-core               9.1.0          The Rocq Prover with its prelude
rocq-elpi               3.3.1          Elpi extension language for Coq
rocq-hierarchy-builder  1.10.2         High level commands to declare and evolve a hierarchy based on packed classes
rocq-runtime            9.1.0          pinned to version 9.1.0
sel                     0.8.0          Simple Event Library
sexplib                 v0.16.0        Library for serializing OCaml values to and from S-expressions
sexplib0                v0.16.0        Library containing the definition of S-expressions and some base converters
stdio                   v0.16.0        Standard IO library for OCaml
stdlib-shims            0.3.0          Backport some of the new stdlib features to older compiler
time_now                v0.16.0        Reports the current time
topkg                   1.1.1          The transitory OCaml software packager
tuareg                  3.0.1          OCaml mode for GNU Emacs
uutf                    1.0.4          Non-blocking streaming Unicode codec for OCaml
vscoq-language-server   2.4.3          Compatibility meta package for the VsRocq language server after the Rocq renaming
vsrocq-language-server  2.4.3          VSRocq language server
yojson                  3.0.0          Yojson is an optimized parsing and printing library for the JSON format
zarith                  1.14           Implements arithmetic and logical operations over arbitrary-precision integers
```

### Per-file

The result below implies that this PR reduces the time spent compiling the entire MC with `make -j 1` by 5%.
```
    After |   Peak Mem |    Before |   Peak Mem ||    Change || Change (mem) | % Change | % Change (mem) | File Name
--------------------------------------------------------------------------------------------------------------------------------------------------------------------
25m18.64s | 2289176 ko | 26m37.21s | 2106228 ko || -1m18.57s ||    182948 ko |   -4.91% |         +8.68% | Total Time / Peak Mem
--------------------------------------------------------------------------------------------------------------------------------------------------------------------
 0m02.19s |  598640 ko |  2m22.63s | 1605988 ko || -2m20.44s ||  -1007348 ko |  -98.46% |        -62.72% | order/order.vo
 0m47.10s |  898684 ko |    N/A    |    N/A     || +0m47.10s ||    898684 ko |        ∞ |              ∞ | order/lattice.vo
 0m34.60s |  897200 ko |    N/A    |    N/A     || +0m34.60s ||    897200 ko |        ∞ |              ∞ | order/complemented_lattice_instances.vo
 0m25.24s |  843772 ko |    N/A    |    N/A     || +0m25.24s ||    843772 ko |        ∞ |              ∞ | order/total_order_instances.vo
 0m44.63s | 1304844 ko |  1m02.38s | 1363732 ko || -0m17.75s ||    -58888 ko |  -28.45% |         -4.31% | field/algC.vo
 0m16.20s |  688340 ko |    N/A    |    N/A     || +0m16.20s ||    688340 ko |        ∞ |              ∞ | order/complemented_lattice.vo
 0m16.02s |  706500 ko |    N/A    |    N/A     || +0m16.02s ||    706500 ko |        ∞ |              ∞ | order/total_order.vo
 0m44.00s | 1214512 ko |  0m52.37s | 1250484 ko || -0m08.37s ||    -35972 ko |  -15.98% |         -2.87% | algebra/numeric_hierarchy/numdomain.vo
 0m30.05s | 1127032 ko |  0m39.02s | 1251004 ko || -0m08.97s ||   -123972 ko |  -22.98% |         -9.90% | algebra/matrix.vo
 0m30.99s | 1082304 ko |  0m37.77s | 1111348 ko || -0m06.78s ||    -29044 ko |  -17.95% |         -2.61% | algebra/archimedean.vo
 0m05.62s |  518656 ko |  0m11.38s |  632972 ko || -0m05.76s ||   -114316 ko |  -50.61% |        -18.06% | order/preorder.vo
 0m05.58s |  527572 ko |    N/A    |    N/A     || +0m05.58s ||    527572 ko |        ∞ |              ∞ | order/porder.vo
 0m25.81s | 1568716 ko |  0m30.65s | 1732368 ko || -0m04.84s ||   -163652 ko |  -15.79% |         -9.44% | character/classfun.vo
 0m14.53s |  981936 ko |  0m18.58s | 1002608 ko || -0m04.05s ||    -20672 ko |  -21.79% |         -2.06% | algebra/ssrint.vo
 0m04.42s |  622920 ko |    N/A    |    N/A     || +0m04.42s ||    622920 ko |        ∞ |              ∞ | order/order_instances.vo
 0m04.26s |  572576 ko |    N/A    |    N/A     || +0m04.26s ||    572576 ko |        ∞ |              ∞ | order/lattice_instances.vo
 0m28.74s | 1032416 ko |  0m32.63s | 1066224 ko || -0m03.89s ||    -33808 ko |  -11.92% |         -3.17% | algebra/numeric_hierarchy/numfield.vo
 0m18.73s | 1083276 ko |  0m22.51s | 1126324 ko || -0m03.78s ||    -43048 ko |  -16.79% |         -3.82% | algebra/rat.vo
 1m14.60s | 2289176 ko |  1m16.93s | 2106228 ko || -0m02.33s ||    182948 ko |   -3.02% |         +8.68% | field/algebraics_fundamentals.vo
 0m35.82s | 1394948 ko |  0m37.33s | 1415656 ko || -0m01.51s ||    -20708 ko |   -4.04% |         -1.46% | field/finfield.vo
 0m24.69s | 1390428 ko |  0m26.47s | 1470064 ko || -0m01.78s ||    -79636 ko |   -6.72% |         -5.41% | character/character.vo
 0m18.42s | 1246760 ko |  0m19.82s | 1281408 ko || -0m01.40s ||    -34648 ko |   -7.06% |         -2.70% | character/integral_char.vo
 0m15.44s |  957196 ko |  0m17.16s | 1074756 ko || -0m01.72s ||   -117560 ko |  -10.02% |        -10.93% | algebra/mxalgebra.vo
 0m14.70s | 1211992 ko |  0m16.02s | 1266880 ko || -0m01.32s ||    -54888 ko |   -8.23% |         -4.33% | character/vcharacter.vo
 0m14.44s | 1051648 ko |  0m15.69s | 1113444 ko || -0m01.25s ||    -61796 ko |   -7.96% |         -5.54% | algebra/sesquilinear.vo
 0m10.10s |  807900 ko |  0m11.33s |  877544 ko || -0m01.23s ||    -69644 ko |  -10.85% |         -7.93% | algebra/numeric_hierarchy/orderedzmod.vo
 1m04.79s | 1301008 ko |  1m04.97s | 1301040 ko || -0m00.18s ||       -32 ko |   -0.27% |         -0.00% | algebra/algebraic_hierarchy/rings_modules_and_algebras.vo
 0m43.69s |  989044 ko |  0m43.63s |  987132 ko || +0m00.06s ||      1912 ko |   +0.13% |         +0.19% | algebra/finalg.vo
 0m41.38s | 1292100 ko |  0m42.20s | 1321548 ko || -0m00.82s ||    -29448 ko |   -1.94% |         -2.22% | character/mxrepresentation.vo
 0m35.86s | 1263096 ko |  0m35.73s | 1285308 ko || +0m00.13s ||    -22212 ko |   +0.36% |         -1.72% | field/fieldext.vo
 0m31.84s | 1192132 ko |  0m32.39s | 1225636 ko || -0m00.55s ||    -33504 ko |   -1.69% |         -2.73% | field/galois.vo
 0m30.87s |  960376 ko |  0m30.86s |  960444 ko || +0m00.01s ||       -68 ko |   +0.03% |         -0.00% | algebra/algebraic_hierarchy/divalg.vo
 0m28.64s | 1105324 ko |  0m29.17s | 1132616 ko || -0m00.53s ||    -27292 ko |   -1.81% |         -2.40% | solvable/extremal.vo
 0m21.28s | 1031656 ko |  0m21.97s | 1066632 ko || -0m00.69s ||    -34976 ko |   -3.14% |         -3.27% | algebra/vector.vo
 0m20.57s |  999216 ko |  0m21.04s | 1035688 ko || -0m00.47s ||    -36472 ko |   -2.23% |         -3.52% | character/mxabelem.vo
 0m19.93s |  994408 ko |  0m20.66s | 1017428 ko || -0m00.73s ||    -23020 ko |   -3.53% |         -2.26% | algebra/mxpoly.vo
 0m19.67s |  990376 ko |  0m20.07s | 1029636 ko || -0m00.40s ||    -39260 ko |   -1.99% |         -3.81% | field/falgebra.vo
 0m19.21s | 1157240 ko |  0m19.77s | 1187220 ko || -0m00.56s ||    -29980 ko |   -2.83% |         -2.52% | field/closed_field.vo
 0m19.04s | 1195908 ko |  0m19.65s | 1246508 ko || -0m00.61s ||    -50600 ko |   -3.10% |         -4.05% | character/inertia.vo
 0m18.78s |  972140 ko |  0m19.67s |  997908 ko || -0m00.89s ||    -25768 ko |   -4.52% |         -2.58% | solvable/extraspecial.vo
 0m18.12s | 1032464 ko |  0m18.09s | 1034084 ko || +0m00.03s ||     -1620 ko |   +0.16% |         -0.15% | algebra/poly.vo
 0m18.11s |  785456 ko |  0m18.16s |  785292 ko || -0m00.05s ||       164 ko |   -0.27% |         +0.02% | algebra/countalg.vo
 0m17.02s | 1206828 ko |  0m17.23s | 1200028 ko || -0m00.21s ||      6800 ko |   -1.21% |         +0.56% | field/algnum.vo
 0m17.01s | 1232212 ko |  0m17.51s | 1243104 ko || -0m00.50s ||    -10892 ko |   -2.85% |         -0.87% | field/qfpoly.vo
 0m15.72s |  815556 ko |  0m15.65s |  815288 ko || +0m00.07s ||       268 ko |   +0.44% |         +0.03% | solvable/burnside_app.vo
 0m15.52s |  986180 ko |  0m16.28s | 1015512 ko || -0m00.76s ||    -29332 ko |   -4.66% |         -2.88% | algebra/qpoly.vo
 0m14.63s |  723168 ko |  0m14.58s |  723200 ko || +0m00.05s ||       -32 ko |   +0.34% |         -0.00% | algebra/polydiv.vo
 0m14.02s |  959752 ko |  0m14.61s |  998024 ko || -0m00.59s ||    -38272 ko |   -4.03% |         -3.83% | field/separable.vo
 0m13.37s | 1029492 ko |  0m13.78s | 1094684 ko || -0m00.41s ||    -65192 ko |   -2.97% |         -5.95% | algebra/spectral.vo
 0m12.74s |  764400 ko |  0m12.68s |  762344 ko || +0m00.06s ||      2056 ko |   +0.47% |         +0.26% | solvable/maximal.vo
 0m11.91s |  605924 ko |  0m11.89s |  604468 ko || +0m00.02s ||      1456 ko |   +0.16% |         +0.24% | fingroup/gproduct.vo
 0m11.57s |  737120 ko |  0m11.59s |  738984 ko || -0m00.02s ||     -1864 ko |   -0.17% |         -0.25% | algebra/algebraic_hierarchy/decfield.vo
 0m11.36s |  758144 ko |  0m11.30s |  757952 ko || +0m00.06s ||       192 ko |   +0.53% |         +0.02% | solvable/abelian.vo
 0m11.11s |  955992 ko |  0m11.46s |  984820 ko || -0m00.35s ||    -28828 ko |   -3.05% |         -2.92% | algebra/interval_inference.vo
 0m11.09s | 1010956 ko |  0m11.21s | 1039704 ko || -0m00.12s ||    -28748 ko |   -1.07% |         -2.76% | algebra/intdiv.vo
 0m10.75s |  749088 ko |  0m10.68s |  749120 ko || +0m00.07s ||       -32 ko |   +0.65% |         -0.00% | solvable/hall.vo
 0m10.60s |  781660 ko |  0m11.52s |  790632 ko || -0m00.92s ||     -8972 ko |   -7.98% |         -1.13% | algebra/interval.vo
 0m10.43s |  675764 ko |  0m10.54s |  673712 ko || -0m00.11s ||      2052 ko |   -1.04% |         +0.30% | boot/nmodule.vo
 0m10.20s |  866136 ko |  0m11.19s |  927588 ko || -0m00.99s ||    -61452 ko |   -8.84% |         -6.62% | algebra/mxred.vo
 0m09.36s |  722520 ko |  0m09.31s |  724024 ko || +0m00.05s ||     -1504 ko |   +0.53% |         -0.20% | algebra/ring_quotient.vo
 0m09.08s |  791704 ko |  0m09.09s |  790188 ko || -0m00.01s ||      1516 ko |   -0.11% |         +0.19% | algebra/zmodp.vo
 0m08.92s |  581908 ko |  0m08.91s |  581640 ko || +0m00.01s ||       268 ko |   +0.11% |         +0.04% | boot/monoid.vo
 0m08.59s | 1136772 ko |  0m09.19s | 1156972 ko || -0m00.60s ||    -20200 ko |   -6.52% |         -1.74% | all/all.vo
 0m08.54s |  556536 ko |  0m08.53s |  556540 ko || +0m00.01s ||        -4 ko |   +0.11% |         -0.00% | fingroup/action.vo
 0m08.53s | 1058168 ko |  0m08.68s | 1043864 ko || -0m00.15s ||     14304 ko |   -1.72% |         +1.37% | field/cyclotomic.vo
 0m08.51s |  798164 ko |  0m08.52s |  801956 ko || -0m00.01s ||     -3792 ko |   -0.11% |         -0.47% | solvable/finmodule.vo
 0m08.39s |  870952 ko |  0m08.95s |  907160 ko || -0m00.56s ||    -36208 ko |   -6.25% |         -3.99% | algebra/polyXY.vo
 0m07.50s |  764232 ko |  0m07.54s |  766300 ko || -0m00.04s ||     -2068 ko |   -0.53% |         -0.26% | solvable/alt.vo
 0m07.42s |  506404 ko |  0m07.40s |  506348 ko || +0m00.02s ||        56 ko |   +0.27% |         +0.01% | boot/seq.vo
 0m06.94s |  543256 ko |  0m06.91s |  543324 ko || +0m00.03s ||       -68 ko |   +0.43% |         -0.01% | fingroup/fingroup.vo
 0m06.92s |  712484 ko |  0m06.88s |  712488 ko || +0m00.04s ||        -4 ko |   +0.58% |         -0.00% | solvable/center.vo
 0m06.80s |  714252 ko |  0m06.83s |  712224 ko || -0m00.03s ||      2028 ko |   -0.43% |         +0.28% | solvable/pgroup.vo
 0m06.57s |  716488 ko |  0m06.61s |  716416 ko || -0m00.04s ||        72 ko |   -0.60% |         +0.01% | solvable/frobenius.vo
 0m06.53s |  723956 ko |  0m06.57s |  727752 ko || -0m00.04s ||     -3796 ko |   -0.60% |         -0.52% | solvable/cyclic.vo
 0m06.27s |  708384 ko |  0m06.21s |  708224 ko || +0m00.06s ||       160 ko |   +0.96% |         +0.02% | solvable/nilpotent.vo
 0m05.90s |  497500 ko |  0m05.83s |  496992 ko || +0m00.07s ||       508 ko |   +1.20% |         +0.10% | boot/finset.vo
 0m05.83s | 1009752 ko |  0m06.30s |  998388 ko || -0m00.47s ||     11364 ko |   -7.46% |         +1.13% | algebra/all_algebra.vo
 0m05.80s |  709136 ko |  0m05.79s |  709036 ko || +0m00.01s ||       100 ko |   +0.17% |         +0.01% | solvable/jordanholder.vo
 0m05.75s | 1067748 ko |  0m05.85s | 1070396 ko || -0m00.10s ||     -2648 ko |   -1.70% |         -0.24% | character/all_character.vo
 0m05.65s |  710304 ko |  0m05.73s |  710204 ko || -0m00.08s ||       100 ko |   -1.39% |         +0.01% | solvable/sylow.vo
 0m05.20s |  483304 ko |  0m05.16s |  483272 ko || +0m00.04s ||        32 ko |   +0.77% |         +0.00% | fingroup/morphism.vo
 0m05.15s |  510600 ko |  0m05.20s |  514040 ko || -0m00.05s ||     -3440 ko |   -0.96% |         -0.66% | boot/bigop.vo
 0m05.03s |  675448 ko |  0m05.06s |  675472 ko || -0m00.03s ||       -24 ko |   -0.59% |         -0.00% | algebra/algebraic_hierarchy/ssralg.vo
 0m04.96s |  676420 ko |  0m04.99s |  676424 ko || -0m00.03s ||        -4 ko |   -0.60% |         -0.00% | algebra/fraction.vo
 0m04.92s | 1031324 ko |  0m05.13s | 1053776 ko || -0m00.21s ||    -22452 ko |   -4.09% |         -2.13% | field/all_field.vo
 0m04.73s |  707956 ko |  0m04.67s |  708032 ko || +0m00.06s ||       -76 ko |   +1.28% |         -0.01% | solvable/gseries.vo
 0m04.35s |  510472 ko |  0m04.39s |  510328 ko || -0m00.04s ||       144 ko |   -0.91% |         +0.02% | fingroup/quotient.vo
 0m04.30s |  491972 ko |  0m04.28s |  491652 ko || +0m00.02s ||       320 ko |   +0.46% |         +0.06% | boot/fintype.vo
 0m03.76s |  448904 ko |  0m03.73s |  448688 ko || +0m00.03s ||       216 ko |   +0.80% |         +0.04% | boot/prime.vo
 0m03.73s |  837268 ko |  0m04.07s |  857308 ko || -0m00.34s ||    -20040 ko |   -8.35% |         -2.33% | algebra/numeric_hierarchy/ssrnum.vo
 0m03.63s |  855648 ko |  0m04.33s |  877464 ko || -0m00.70s ||    -21816 ko |  -16.16% |         -2.48% | solvable/all_solvable.vo
 0m03.61s |  708964 ko |  0m03.62s |  708828 ko || -0m00.01s ||       136 ko |   -0.27% |         +0.01% | solvable/primitive_action.vo
 0m03.28s |  519256 ko |  0m03.26s |  523332 ko || +0m00.02s ||     -4076 ko |   +0.61% |         -0.77% | fingroup/perm.vo
 0m02.92s |  430376 ko |  0m02.94s |  430224 ko || -0m00.02s ||       152 ko |   -0.68% |         +0.03% | boot/path.vo
 0m02.34s |  439148 ko |  0m02.38s |  438964 ko || -0m00.04s ||       184 ko |   -1.68% |         +0.04% | boot/ssrnat.vo
 0m02.34s |  488944 ko |  0m02.32s |  492680 ko || +0m00.02s ||     -3736 ko |   +0.86% |         -0.75% | fingroup/automorphism.vo
 0m02.01s |  634444 ko |  0m02.29s |  627188 ko || -0m00.28s ||      7256 ko |  -12.22% |         +1.15% | ssreflect/all_ssreflect.vo
 0m02.00s |  436028 ko |  0m02.05s |  432232 ko || -0m00.05s ||      3796 ko |   -2.43% |         +0.87% | boot/fingraph.vo
 0m01.97s |  447136 ko |  0m01.98s |  447220 ko || -0m00.01s ||       -84 ko |   -0.50% |         -0.01% | boot/binomial.vo
 0m01.92s |  503212 ko |  0m01.89s |  498724 ko || +0m00.03s ||      4488 ko |   +1.58% |         +0.89% | solvable/commutator.vo
 0m01.80s |  434396 ko |  0m01.80s |  434336 ko || +0m00.00s ||        60 ko |   +0.00% |         +0.01% | boot/choice.vo
 0m01.77s |  428560 ko |  0m01.78s |  428484 ko || -0m00.01s ||        76 ko |   -0.56% |         +0.01% | boot/finfun.vo
 0m01.66s |  501144 ko |  0m01.63s |  501036 ko || +0m00.03s ||       108 ko |   +1.84% |         +0.02% | solvable/gfunctor.vo
 0m01.65s |  424184 ko |  0m01.68s |  423968 ko || -0m00.03s ||       216 ko |   -1.78% |         +0.05% | boot/div.vo
 0m01.46s |  446776 ko |  0m01.51s |  442796 ko || -0m00.05s ||      3980 ko |   -3.31% |         +0.89% | boot/tuple.vo
 0m01.36s |  422472 ko |  0m01.31s |  422288 ko || +0m00.05s ||       184 ko |   +3.81% |         +0.04% | boot/eqtype.vo
 0m01.26s |  432336 ko |  0m01.29s |  432492 ko || -0m00.03s ||      -156 ko |   -2.32% |         -0.03% | boot/generic_quotient.vo
 0m01.18s |  586252 ko |  0m01.56s |  582872 ko || -0m00.38s ||      3380 ko |  -24.35% |         +0.57% | order/all_order.vo
 0m00.76s |  464760 ko |  0m00.78s |  464668 ko || -0m00.02s ||        92 ko |   -2.56% |         +0.01% | fingroup/presentation.vo
 0m00.51s |  473776 ko |  0m00.49s |  473380 ko || +0m00.02s ||       396 ko |   +4.08% |         +0.08% | fingroup/all_fingroup.vo
 0m00.49s |  425904 ko |  0m00.51s |  425920 ko || -0m00.02s ||       -16 ko |   -3.92% |         -0.00% | boot/ssrAC.vo
 0m00.48s |  461188 ko |  0m00.52s |  460992 ko || -0m00.04s ||       196 ko |   -7.69% |         +0.04% | boot/all_boot.vo
 0m00.16s |   15296 ko |  0m00.15s |   14608 ko || +0m00.01s ||       688 ko |   +6.66% |         +4.70% | .Makefile.coq.d
 0m00.11s |  163392 ko |  0m00.11s |  161968 ko || +0m00.00s ||      1424 ko |   +0.00% |         +0.87% | boot/ssrbool.vo
 0m00.11s |  146704 ko |  0m00.12s |  147296 ko || -0m00.01s ||      -592 ko |   -8.33% |         -0.40% | boot/ssrfun.vo
 0m00.08s |  115156 ko |  0m00.08s |  113924 ko || +0m00.00s ||      1232 ko |   +0.00% |         +1.08% | boot/ssreflect.vo
 0m00.05s |   99484 ko |  0m00.06s |   98268 ko || -0m00.01s ||      1216 ko |  -16.66% |         +1.23% | boot/ssrmatching.vo
 0m00.05s |  105292 ko |  0m00.06s |  103732 ko || -0m00.01s ||      1560 ko |  -16.66% |         +1.50% | boot/ssrnotations.vo
```

### Per-package build and `mathcomp-single` with `make -j 8`

| package          | before     | after      |
| ---------------- | ---------- | ---------- |
| boot             | 0m51.293s  | 0m51.702s  |
| fingroup         | 0m43.681s  | 0m43.666s  |
| order            | 2m35.237s  | 2m1.426s   |
| algebra          | 6m5.420s   | 5m32.193s  |
| solvable         | 2m0.368s   | 1m53.959s  |
| field            | 5m14.574s  | 4m50.985s  |
| character        | 1m53.797s  | 1m48.003s  |
| `mathcomp-single`| 14m25.383s | 13m36.647s |

**Comment by proux01** [comment]
IMO a lower compilation time is nice to take but not the main motivation for this PR. Simply being able to easily edit the files without having to wait minutes for your editor to compile the 6000 lines above the one you want to edit is already a huge win.

**Comment by pi8027** [comment]
Anyway, it's done. The results show that this PR reduces the compilation time regardless of how we measure it.

**Comment by pi8027** [comment]
@affeldt-aist Do you mind reviewing the header documentation and the changelog entries?

**Comment by affeldt-aist** [comment]
It is difficult for me to act on this before Saturday. I will try to do that tomorrow evening JST.

**Comment by pi8027** [comment]
No hurry since I aim to merge this shortly after the release, not before.

**Comment by pi8027** [comment]
If a part of the reviews arrives before the 27th, I should be able to make some progress during the MathComp sharing day.

**Comment by pi8027** [comment]
> It is difficult for me to act on this before Saturday. I will try to do that tomorrow evening JST.

@affeldt-aist Any news?

**Comment by affeldt-aist** [comment]
> > It is difficult for me to act on this before Saturday. I will try to do that tomorrow evening JST.
> 
> @affeldt-aist Any news?

No, I'm sorry, I can't find time. :-(

**Comment by pi8027** [comment]
@hoheinzollern @t6s By any chance, are you able to review the documentation part of this PR?

**Comment by t6s** [comment]
> @hoheinzollern @t6s By any chance, are you able to review the documentation part of this PR?

sure. I'll see it in a few days

File: order/lattice.v [hunk 8]
```diff
@@ -0,0 +1,2148 @@
...
+(*                                The HB class is called SubTBLattice.        *)
+(*   bJoinSubTLattice d T P d' == join of BJoinSubLattice and TBLattice       *)
+(*                                The HB class is called BJoinSubTLattice.    *)
+(*   tMeetSubBLattice d T P d' == join of TMeetSubLattice and TBLattice       *)
+(*                                The HB class is called TMeetSubBLattice.    *)
+(*       bSubTLattice d T P d' == join of BSubLattice and TBLattice           *)
+(*                                The HB class is called BSubTLattice.        *)
+(*       tSubBLattice d T P d' == join of TSubLattice and TBLattice           *)
+(*                                The HB class is called TSubBLattice.        *)
+(*      tbSubBLattice d T P d' == join of BSubLattice and TSubLattice         *)
```
Comment (t6s) [inline order/lattice.v]:
```suggestion
(*       tbSubLattice d T P d' == join of BSubLattice and TSubLattice         *)
```

File: order/order.v [hunk 9]
```diff
@@ -1,56 +1,82 @@
...
+(*                          partially ordered by the divisibility relation    *)
+(*           total_order.v: total order structures and their theory           *)
+(* total_order_instances.v: instances of the total order structures, e.g.,    *)
+(*                          the lexicographic orders on the product type and  *)
+(*                          lists                                             *)
+(*  complemented_lattice.v: complemented lattice structures and their theory  *)
+(* complemented_lattice_instances.v: instances of the complemented lattice    *)
+(*                          structures, e.g., the product order on the        *)
+(*                          product type and tuples                           *)
+(*       order_instances.v: re-exportation of all the order instances above   *)
```
Comment (t6s) [inline order/order.v]:
```suggestion
(*       order_instances.v: re-exportation of all the order instances above,  *)
(*                          as well as instances of the totally-ordered and   *)
(*                          complemented lattice structure                    *)
```

File: doc/changelog/04-removed/1580-split-order.md [hunk 10]
```diff
@@ -0,0 +1,3 @@
+- in `order.v`
+  + the `DeprecatedSubOrder` module
```
Comment (t6s) [inline doc/changelog/04-removed/1580-split-order.md]: IIRC, this change was reverted?

Comment (t6s) [inline doc/changelog/04-removed/1580-split-order.md]: IIRC, this change was reverted?

**Review by t6s — COMMENTED** [review]
Looked through the changelog and header docs, and they look mostly good.
It seems `04-removed/1580-split-order.md`  needs to be updated. Please check.
I have also suggested two minor corrections.

File: doc/changelog/04-removed/1580-split-order.md (hunk 10 above)
Comment (pi8027) [reply doc/changelog/04-removed/1580-split-order.md]: Since we decided to keep the module's contents, the name `DeprecatedSubOrder` no longer makes sense. So, this PR removes the module while keeping its contents elsewhere. I revised the changelog entry anyway.

**Comment by t6s** [comment]
I am satisfied by the current state of the documentation!

**Comment by hoheinzollern** [comment]
Since this is a huge PR and it's hard to check that everything is preserved, I built a mapping showing where HB instances, lemmas and notations went:

- [hb-instances.csv](https://github.com/user-attachments/files/28629114/hb-instances.csv)
- [mapping.csv](https://github.com/user-attachments/files/28629116/mapping.csv)
- [notations.csv](https://github.com/user-attachments/files/28629117/notations.csv)

**Comment by hoheinzollern** [comment]
Comments about the mapping:

- `ltgtP` and `leP` are dropped, though they are specializations of `comparable_ltgtP` and `comparable_leP` respectively. @pi8027 does this come at no loss of ergonomics?
- `andKb`, `orKb` are dropped as they are already present in Corelib
- `le_def` (4288), `meet_eql`, `joinUKI`, `lcmnn`, `le_def` (5530), `andbE`, `orbE`, `setKUC`, `setKIC` are all helpers to build HB instances, which are preserved, the lemmas are safe to drop (`le_def` is still available as a mixin field in `preorder.v`, so only the local helpers are lost)

**Comment by pi8027** [comment]
> `ltgtP` and `leP` are dropped, though they are specializations of `comparable_ltgtP` and `comparable_leP` respectively. @pi8027 does this come at no loss of ergonomics?

If you are talking about these, they are in an `HB.builders` section and not exposed to users. https://github.com/math-comp/math-comp/blob/1054971fd138f92d1dc8c6ef39ef48ea81c1c583/order/order.v#L4179-L4186

The `ltgtP` and `leP` lemmas exposed to users are definitely preserved. See `total_order.v`. (By the way, they are `Definition` but not `Lemma`.)

> `andKb`, `orKb` are dropped as they are already present in Corelib

They are internal lemmas for building lattice instances on `bool`. https://github.com/math-comp/math-comp/blob/1054971fd138f92d1dc8c6ef39ef48ea81c1c583/order/order.v#L5612-L5616

> `le_def` (4288), `meet_eql`, `joinUKI`, `lcmnn`, `le_def` (5530), `andbE`, `orbE`, `setKUC`, `setKIC` are all helpers to build HB instances, which are preserved, the lemmas are safe to drop (`le_def` is still available as a mixin field in `preorder.v`, so only the local helpers are lost)

Idem.

**Comment by pi8027** [comment]
I rebased this PR and added the last commit to resolve the name conflict of `ltEprod` and `lt_pair`.

**Comment by pi8027** [comment]
@hoheinzollern Could you review and merge this PR by the end of July? It has some subsequent TODOs for milestone 2.7.0.

**Review by proux01 — APPROVED** [review]
Considering the painful work of checking that "nothing got lost in the file spliting" was already done above by @hoheinzollern , let's merge this.

**Comment by pi8027** [comment]
Thanks!
